US07645789B2
(3-Nitrophenyl)hydrazine hydrochloride (30 g, 0.16 mol) and 2-oxo-propionic acid ethyl ester (22 g, 0.19 mol) were dissolved in ethanol (300 mL). The mixture was stirred at room temperature for 4 h before the solvent was evaporated under reduced pressure to give (E)-ethyl 2-(2-(3-nitrophenyl)hydrazono)propanoate, which was used directly in the next step.

reactant | (3-Nitrophenyl)hydrazine hydrochloride | 0.16 mol, 30 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | 2-oxo-propionic acid ethyl ester | 0.19 mol, 22 g | C(C)OC(C(C)=O)=O | C5H8O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | (E)-ethyl 2-(2-(3-nitrophenyl)hydrazono)propanoate | [N+](=O)([O-])C=1C=C(C=CC1)N\N=C(\C(=O)OCC)/C | C11H13N3O4
